US05162334
Step C: 17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(tert-butyldimethylsiloxy)-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(tert-butyldimethylsiloxy)-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (165 mg) in dry methylene chloride (4 ml) was added an excess of 2,6-lutidine (41 μl) and the mixture was stirred at room temperature. After 10 minutes, tert-butyldimethylsilyl trifluoromethanesulfonate (49 μl) was added via syringe. After 1 hour the reaction mixture was diluted with ethyl acetate, extracted from saturated sodium bicarbonate, washed with brine and the organic phase dried over magnesium sulfate. Removal of the solvent in vacuo and flash chromatography on silica gel (ethyl acetate:hexane (1:4)+1% methanol) gave the title compound (130 mg).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(tert-butyldimethylsiloxy)-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 165 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O[Si](C)(C)C(C)(C)C)OCC=C)C)C)O)=O | C51H85NO12Si
reactant | 2,6-lutidine | 41 μl | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyldimethylsilyl trifluoromethanesulfonate | 49 μl | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(tert-butyldimethylsiloxy)-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 130 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O[Si](C)(C)C(C)(C)C)OCC=C)C)C)O[Si](C)(C)C(C)(C)C)=O | C57H99NO12Si2
